US06627629B2
Part I: Preparation of t-Butyl 3-(4-fluorobenzylidene)-1-piperidinecarboxylate
To a stirring solution of (4-fluorophenylmethyl)-triphenylphosphonium chloride (17.68 g, 43.5 mmol) in dry tetrahydrofuran (60 mL) at −78° C. was added 2.5 M n-butyllithium in hexane (14.6 mL, 36.5 mmol). The reaction was warmed to 0° C. for 1 hr and t-Butyl 3-oxo-1-piperidinecarboxylate (3.46 g, 17.4 mmol) in tetrahydrofuran (60 mL) was added. The mixture was stirred at room temperature for 1 hr and the heated to reflux for 16 hr. The reaction was cooled to room temperature and quenched by the addition of saturated aqueous ammonium chloride. The reaction was extracted with ethyl acetate three times (100 mL). The organic layers were combined, washed with brine, dried over magnesium sulfate, and evaporated in vacuo to a pale yellow oil. The oil was purified by flash chromatography (silica gel, hexane:ethyl acetate 9:1) to yield 3.82 g of a mixture of E and Z isomers as a colorless oil. 1H NMR (300 MHz, CDCl3) δ7.22-7.14 (m, 2H), 7.04-6.98 (m, 2H), 6.36 (s, 0.33H), 6.28 (s, 0.67H), 4.14 (s, 1.34 H), 4.00 (s, 0.66H) 3.50 (t, J=5, 2H), 2.47 (t, J=5, 0.66 H), 2.39 (t, J=5, 1.34H), 1.75-1.68 (m, 1.34H), 1.65-1.57 (m, 0.66H), 1.48 (s, 9H).

reactant | (4-fluorophenylmethyl)-triphenylphosphonium chloride | 43.5 mmol, 17.68 g | [Cl-].FC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 36.5 mmol, 14.6 mL | CCCCCC | C6H14
reactant | t-Butyl 3-oxo-1-piperidinecarboxylate | 17.4 mmol, 3.46 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | t-Butyl 3-(4-fluorobenzylidene)-1-piperidinecarboxylate | 3.82 g | FC1=CC=C(C=C2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C17H22FNO2
